US08729102B2
A) tert-butyl [(1S)-2-{[6-(6-ethoxy-1,3-benzoxazol-2-yl)-5-fluoropyridin-3-yl]oxy}-1-methylethyl]carbamate
Using tert-butyl [(1S)-2-({6-[(2,4-dihydroxyphenyl)carbamoyl]-5-fluoropyridin-3-yl}oxy)-1-methylethyl]carbamate and ethyl iodide, and in the same manner as in Example 2, steps D-E, the title compound was obtained.

reactant | tert-butyl [(1S)-2-({6-[(2,4-dihydroxyphenyl)carbamoyl]-5-fluoropyridin-3-yl}oxy)-1-methylethyl]carbamate | OC1=C(C=CC(=C1)O)NC(=O)C1=C(C=C(C=N1)OC[C@H](C)NC(OC(C)(C)C)=O)F | C20H24FN3O6
reactant | ethyl iodide | C(C)I | C2H5I
product | tert-butyl [(1S)-2-{[6-(6-ethoxy-1,3-benzoxazol-2-yl)-5-fluoropyridin-3-yl]oxy}-1-methylethyl]carbamate | C(C)OC1=CC2=C(N=C(O2)C2=C(C=C(C=N2)OC[C@H](C)NC(OC(C)(C)C)=O)F)C=C1 | C22H26FN3O5
